US04025630
3-(4-Fluorophenyl-methylbutyl)-1-[4-(piperidino)butyryloxy] 6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrochloride
2.5 g. (6.76 mmole) of 3-(4-fluorophenyl-1-methylbutyl)-1-hydroxy-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran is combined with 1.41 g. (6.76 mmole) of γ-piperidinobutyric acid hydrochloride and 1.48 g. (7.16 mmole) of dicyclohexylcarbodiimide in 125 ml. of methylene chloride and stirred at room temperature for 16 hours. The by-product of dicyclohexylurea is removed by filtration and the filtrate is evaporated to a residue. The residue is dissolved in ether and the small amount of solid which appears is removed by filtration. The ether is removed on a rotary evaporator and the gummy residue which remains is triturated several times with small quantities of hexane. The material is thoroughly dried to yield the product as a powder.

reactant | 3-(4-fluorophenyl-1-methylbutyl)-1-hydroxy-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran | 6.76 mmole | FC1=CC=C(C=C1)C(CCC)(C)C=1C=C(C2=C(OC(C3=C2CC(CC3)C)(C)C)C1)O | C27H33FO2
reactant | γ-piperidinobutyric acid hydrochloride | 6.76 mmole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 7.16 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(4-Fluorophenyl-methylbutyl)-1-[4-(piperidino)butyryloxy] 6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrochloride | Cl.FC1=CC=C(C=C1)C(CCC)(C=1C=C(C2=C(OC(C3=C2CC(CC3)C)(C)C)C1)OC(CCCN1CCCCC1)=O)C | InChI=1S/C36H48FNO3.ClH/c1-6-18-36(5,26-13-15-28(37)16-14-26)27-23-31(40-33(39)11-10-21-38-19-8-7-9-20-38)34-29-22-25(2)12-17-30(29)35(3,4)41-32(34)24-27;/h13-16,23-25H,6-12,17-22H2,1-5H3;1H
